### PR TITLE
[Merged by Bors] - chore: reduce imports

### PR DESCRIPTION
**Pull request by digama0**
This uses the improved `shake` script from #9772 to reduce imports across mathlib. The corresponding `noshake.json` file has been added to #9772.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Cyclotomic/Basic.lean [hunk 1]
```diff
@@ -3,6 +3,7 @@ Copyright (c) 2021 Riccardo Brasca. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Riccardo Brasca
 -/
+import Mathlib.Init.Core
```
Comment (erdOne) [inline Mathlib/NumberTheory/Cyclotomic/Basic.lean:6]: Why is this so?

Comment (digama0) [reply Mathlib/NumberTheory/Cyclotomic/Basic.lean:6]: Added imports happen because the import was removed from an upstream file that didn't need it, and downstream files were accidentally relying on the transitive import.

Comment (erdOne) [reply Mathlib/NumberTheory/Cyclotomic/Basic.lean:6]: I mean, I don't think this file (or any file) uses `Mathlib.Init.Core`. But after more inspection it seems like that file contains a single simp attribute that was maybe used.

**Comment by sgouezel** [comment]
This is essentially impossible to review in the traditional way, so the question is whether we trust your script or not. I'd say yes (the fact that it builds is proof enough that it works at least to reduce some imports) so I think we should merge this as quickly as possible (running the tool again to fix the conflicts), but it would be better that at least two people agree on this, so
maintainer merge

**Comment by digama0** [comment]
This PR was not actually written by my script, unfortunately. It was a few phases of looking at the output, moving some things to global `noshake`s, some to local `noshake`s, and accepting the rest, then cleanup and reformatting of the result, then doing a second and third pass to ensure a minimal diff and checking that things still compile.

**Comment by sgouezel** [comment]
Let me correct myself, then. The question is whether we trust `script + Mario`. My answer is yes, because in the end it builds and it reduces imports. Maybe in a slightly non-optimal way if Mario screwed up somewhere, but in any case it's a big improvement.

File: Mathlib/Analysis/Convex/Mul.lean [hunk 2]
```diff
@@ -144,6 +144,7 @@ lemma ConvexOn.pow (hf : ConvexOn 𝕜 s f) (hf₀ : ∀ ⦃x⦄, x ∈ s → 0
 /-- `x^n`, `n : ℕ` is convex on `[0, +∞)` for all `n`. -/
 lemma convexOn_pow : ∀ n, ConvexOn 𝕜 (Ici 0) fun x : 𝕜 ↦ x ^ n :=
   (convexOn_id <| convex_Ici _).pow fun _ ↦ id
+#align convex_on_pow convexOn_pow
```
Comment (sgouezel) [inline Mathlib/Analysis/Convex/Mul.lean:147]: What happened here?

**Comment by digama0** [comment]
Going forward it might be worth teaching people (mainly maintainers) how to use [`noshake.json`](https://github.com/leanprover-community/mathlib4/blob/2295d1cb20b128c9198db90a1551d375ff7363b4/scripts/noshake.json), because it's grown large enough that it is reasonable to expect it to need to be edited on a regular basis.

In short:
* `ignoreAll` is for files which intentionally have unnecessary imports. Files which are import-only are automatically considered as being in this group, so really the only mathlib file we have in this category is `Mathlib.Mathport.Syntax`.
* `ignoreImport` is for files which should be treated as used when importing into another file. This is when there is some property *of the file itself* which means that downstream users will depend on it without having any direct constant-to-constant dependency. That is, tactics and notation files, and files whose main purpose is to add or declare an attribute.
* `ignore` is for individual imports in individual files. This is used when there is some unusual use of a constant which is compile-time only, like double-backtick names, Qq expressions, `attribute [foo] bar`, as well as check-only commands like `#guard` and `example`.

File: Mathlib/Data/List/Rotate.lean [hunk 3]
```diff
@@ -247,8 +247,8 @@ theorem get?_rotate {l : List α} {n m : ℕ} (hml : m < l.length) :
         rw [tsub_lt_iff_left hm']
         exact Nat.add_lt_add hlt hml
       conv_rhs => rw [add_comm m, ← mod_add_mod, mod_eq_sub_mod hm', mod_eq_of_lt this]
-      rw [← add_right_inj l.length, ← add_tsub_assoc_of_le, add_tsub_tsub_cancel,
-        add_tsub_cancel_of_le, add_comm]
+      rw [← add_right_inj l.length, ← add_tsub_assoc_of_le (α := ℕ), add_tsub_tsub_cancel (α := ℕ),
```
Comment (kmill) [inline Mathlib/Data/List/Rotate.lean:250]: Why do these now need an implicit argument?

Comment (digama0) [reply Mathlib/Data/List/Rotate.lean:250]: I am not entirely sure; apparently you can do this proof without some imports and it still works when you pass the types explicitly but inferring them seems not to work, or you can add more imports and it will work as is. I felt like it would be better to err on the side of fewer imports since the fallout isn't too much.

File: Mathlib/Analysis/Convex/Mul.lean (hunk 2 above)
Comment (Vierkantor) [inline Mathlib/Analysis/Convex/Mul.lean:147]: Note to self: these statements were moved here from `Mathlib/Analysis/Convex/SpecificFunctions/Basic.lean`. (Not sure why they were there in the first place!)

File: Mathlib/GroupTheory/Subgroup/Saturated.lean [hunk 4]
```diff
@@ -4,6 +4,7 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Johan Commelin
 -/
 import Mathlib.GroupTheory.Subgroup.Basic
+import Mathlib.Algebra.Module.Basic
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/Subgroup/Saturated.lean:7]: Do you know why we need the definition of a module here? It seems this fits within group theory.

File: Mathlib/Topology/ContinuousFunction/StoneWeierstrass.lean [hunk 5]
```diff
@@ -3,8 +3,9 @@ Copyright (c) 2021 Scott Morrison. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Scott Morrison, Heather Macbeth
 -/
-import Mathlib.Topology.ContinuousFunction.Weierstrass
 import Mathlib.Data.IsROrC.Basic
+import Mathlib.Topology.Algebra.StarSubalgebra
+import Mathlib.Topology.ContinuousFunction.Weierstrass
```
Comment (Vierkantor) [inline Mathlib/Topology/ContinuousFunction/StoneWeierstrass.lean:8]: Another delete-and-readd.

File: Mathlib/Topology/Homeomorph.lean [hunk 6]
```diff
@@ -6,6 +6,7 @@ Authors: Johannes Hölzl, Patrick Massot, Sébastien Gouëzel, Zhouhang Zhou, Re
 import Mathlib.Logic.Equiv.Fin
 import Mathlib.Topology.DenseEmbedding
 import Mathlib.Topology.Support
+import Mathlib.Topology.Connected.LocallyConnected
```
Comment (Vierkantor) [inline Mathlib/Topology/Homeomorph.lean:9]: I wouldn't expect this import here, do you know why it's needed?

**Review by Vierkantor — COMMENTED** [review]
As a bit of penance for my own huge PRs I went through all the changes. Only two additions stood out to me as unusual and there were a couple of weird reorderings, otherwise looks good to me.

File: Mathlib/Algebra/Order/Floor.lean [hunk 7]
```diff
@@ -8,11 +8,10 @@ import Mathlib.Data.Int.Lemmas
 import Mathlib.Data.Int.CharZero
 import Mathlib.Data.Set.Intervals.Group
 import Mathlib.Data.Set.Lattice
-import Mathlib.Init.Meta.WellFoundedTactics
+import Mathlib.Init.Data.Nat.Lemmas
 import Mathlib.Tactic.Abel
 import Mathlib.Tactic.Linarith
 import Mathlib.Tactic.Positivity
-import Mathlib.Init.Data.Nat.Lemmas
```
[the remark this answers is not in the document]
Comment (digama0) [reply Mathlib/Algebra/Order/Floor.lean:15]: You have no idea how many edits these lists went through, some things were removed and then undone later because the removal didn't work, or other things like that. That said I did try to manually reformat the import lists where reasonable, and I think this one was manually reformatted to put `Tactic` lines at the end and `Init` lines at the beginning. It would be nice to have some style guide for this kind of thing.

File: Mathlib/Topology/Homeomorph.lean (hunk 6 above)
Comment (digama0) [reply Mathlib/Topology/Homeomorph.lean:9]:
```lean
/-- If the codomain of a homeomorphism is a locally connected space, then the domain is also
a locally connected space. -/
theorem locallyConnectedSpace [i : LocallyConnectedSpace Y] (h : X ≃ₜ Y) :
    LocallyConnectedSpace X := by
```

**Comment by digama0** [comment]
I've pushed fixes for the tests, which might warrant additional scrutiny since additional imports there imply some usability loss (to remember to import things otherwise the tactic has degraded behavior).

File: test/rewrites.lean [hunk 8]
```diff
@@ -1,3 +1,4 @@
+import Mathlib.Init.Core
 import Mathlib.Tactic.Rewrites
```
Comment (Vierkantor) [inline test/rewrites.lean:2]: Idem: we should probably make `Init.Core` available in `Tactic.Rewrites`.

**Review by Vierkantor — APPROVED** [review]
As far as I can tell, most of the added imports cover extra test cases, not the core functionality. Only `rw_search` and `rw` really do seem to need `Init.Core` to work at all. (And because they're meant to be self-replacing, it's extra important that we don't tweak the test cases too much: other tactics can rely on being tested by the bulk of Mathlib itself.)

I'm confident that this change is going to be an improvement, since things build with minimal modifications outside of the `import` lines. Let's get this merged!

bors d+

**Comment by urkud** [comment]
Could you please merge `master` and shake it again? I'm surprised that imports of `Data.Set.Defs` didn't change: it compiles with
```lean
import Std.Classes.SetNotation
import Mathlib.Init.Set
import Mathlib.Tactic.Attr.Core
import Mathlib.Tactic.Simps.Basic
import Mathlib.Order.Notation
import Mathlib.Util.CompileInductive
import Mathlib.Data.SProd
import Mathlib.Data.Subtype
```
(I removed `Mathlib.Order.Basic`, then fixed compile).

**Comment by digama0** [comment]
(I hadn't actually done the re-shaking from the last merge yet. I can't shake it until it compiles successfully. Seems I have to merge again and restart the process...)

File: Mathlib/Algebra/Order/Floor.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (Parcly-Taxel) [reply Mathlib/Algebra/Order/Floor.lean:15]: There seems to be a tendency to put imports for newly added files in the same order as those imports appear in `Mathlib.lean`.

**Comment by digama0** [comment]
AAH it conflicted again, I literally can't get this out the door fast enough
